US07994185B2
Step B: N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-piperidinesulfonamide
Following a procedure analogous to the procedure described in Example 21 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-piperidinesulfonamide (190 mg, 0.352 mmol) and NH4OH (4 mL) in a microwave reactor for 75 min at 120° C., the title compound was obtained an off-white solid (75 mg, 41% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.69 (s, 1H) 7.83 (d, J=5.3 Hz, 1H) 7.51 (td, J=7.4, 2.2 Hz, 1H) 7.05-7.38 (m, 2H) 6.54 (s, 2H) 5.79 (d, J=5.3 Hz, 1H) 3.68 (t, J=4.7 Hz, 4H) 3.43 (t, J=4.6 Hz, 4H), 3.01 (t, J=5.0 Hz, 4H) 1.33-1.52 (m, 6H). MS (ESI): 520.0 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-piperidinesulfonamide | 0.352 mmol, 190 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)N1CCCCC1)F | C22H24ClFN6O3S2
reactant | NH4OH | 4 mL | [NH4+].[OH-]
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-piperidinesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)N1CCCCC1)F | C22H26FN7O3S2
